US08044213B2
To a mixture of 0.067 g (0.15 mmole) of 4-(3-chloro-phenyl)-2-[6-(3-hydroxy-propoxy)-5-methoxy-benzoimidazol-1-yl]-thiazole-5-carboxylic acid amide (I.42a), 0.036 g (0.36 mmole) of triethylamine and 2 mL of dimethylformamide at 0 degrees was added, 0.020 g (0.18 mmole) of methanesulfonyl chloride. The mixture was stirred for 1 hour and then 1 mL of saturated ammonium chloride solution was added dropwise. The mixture was poured into 25 mL of water and extracted three times with 20 mL of ethyl acetate. The combined organic extracts were washed three times with 25 mL of water, once with 25 mL of saturated sodium bicarbonate solution, once with 25 mL of brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was heated at 80 degrees for 1 hour with 2 mL of dimethylformamide and 0.080 mL of N-methylpiperazine. The mixture was cooled, poured into 25 mL of water extracted three times with 20 mL of ethyl acetate. The combined organic extracts were washed three times with 25 mL of water, once with 25 mL of saturated sodium bicarbonate solution, once with 25 mL of brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with methanol-dichloromethane (25:75) to give 0.026 g of 4-(3-chloro-phenyl)-2-{5-methoxy-6-[3-(4-methyl-piperazin-1-yl)-propoxy]-benzoimidazol-1-yl}thiazole-5-carboxylic acid amide (I.42) as a pink solid. MH+/Z=541

reactant | 4-(3-chloro-phenyl)-2-[6-(3-hydroxy-propoxy)-5-methoxy-benzoimidazol-1-yl]-thiazole-5-carboxylic acid amide | 0.15 mmole, 0.067 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C(=C2)OC)OCCCO | C21H19ClN4O4S
reactant | triethylamine | 0.36 mmole, 0.036 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.18 mmole, 0.020 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | 1 mL | [Cl-].[NH4+]
solvent | water | 25 mL | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloro-phenyl)-2-{5-methoxy-6-[3-(4-methyl-piperazin-1-yl)-propoxy]-benzoimidazol-1-yl}thiazole-5-carboxylic acid amide | 0.026 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C(=C2)OC)OCCCN2CCN(CC2)C | C26H29ClN6O3S
